US08227636B2
Octanedioic acid acetoxy-amide phenylamide.
To a stirring solution of SAHA (0.43 g, 16.3 mmol) in pyridine/CH2Cl2 (5/5 mL) was added acetic anhydride 1-hydroxybenzotriazole (153 μL, 16.3 mmol). After stirring for 18 h at RT, the solvent was removed, and the material was without further purification. 1H NMR (DMSO-d6) δ 11.71 (br s, 1H), 10.01 (br s, 1H), 7.75 (d, J=7.6 Hz, 2H), 7.44 (dd, J=7.6, 7.4 Hz, 2H), 7.17 (t, J=7.4 Hz, 1H), 2.43 (t, J=7.2 Hz, 2H), 2.35-2.20 (m, 2H), 2.30 (s, 3H), 1.82-1.58 (m, 4H), 1.58-1.36 (m, 4H). MS (EI): cal'd (MH+) 307.1, exp (MH+) 307.2.

reactant | SAHA | 16.3 mmol, 0.43 g | C1=CC=C(C=C1)NC(=O)CCCCCCC(=O)NO | C14H20N2O3
reactant | acetic anhydride 1-hydroxybenzotriazole | 16.3 mmol, 153 μL | ON1N=NC2=C1C=CC=C2.C(C)(=O)OC(C)=O
solvent | pyridine CH2Cl2 | 5 mL | N1=CC=CC=C1.C(Cl)Cl
product | Octanedioic acid acetoxy-amide phenylamide | C1(=CC=CC=C1)NC(CCCCCCC(=O)NOC(C)=O)=O | C16H22N2O4
